US08084448B2
C. 5-[2-Hydroxy-4-(3-phenylpropyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A solution of 5-[2-benzyloxy-4-((E)-3-phenylpropenyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one (74 mg, 0.17 mmol) in 6 mL of EtOH/HOAc (4:2) is hydrogenated at 50 psi over 10% Pd/C (70 mg) for 18 h. The catalyst is filtered, the solvent is removed under reduced pressure and the residual oil purified by preparative HPLC to give the title compound as a solid: (M−1)−=345.

reactant | 5-[2-benzyloxy-4-((E)-3-phenylpropenyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.17 mmol, 74 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\CC1=CC=CC=C1)N1CC(NS1(=O)=O)=O | C24H22N2O4S
solvent | EtOH HOAc | 6 mL | CCO.CC(=O)O
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | 5-[2-Hydroxy-4-(3-phenylpropyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)CCCC1=CC=CC=C1)N1CC(NS1(=O)=O)=O | C17H18N2O4S
